US05374606
A mixture of 1-[2-(methylsulphenyl)-3-(methylsulphenylmethyl)-4-chlorophenyl]-3-cyclopropylpropan-1,3-dione (1.5 g) and triethylorthoformate (8 ml) in acetic anhydride (25 ml) was heated at reflux temperature for 4 hours. The excess reagent and solvent were evaporated under reduced pressure, yielding 1-[2-(methylsulphenyl)-3-(methylsulphenylmethyl)-4-chlorophenyl]-2-ethoxymethylene-3-cyclopropylpropan-1,3-dione as a brown oil (2.3 g).

reactant | 1-[2-(methylsulphenyl)-3-(methylsulphenylmethyl)-4-chlorophenyl]-3-cyclopropylpropan-1,3-dione | 1.5 g | CSC1=C(C=CC(=C1CSC)Cl)C(CC(=O)C1CC1)=O | C15H17ClO2S2
reactant | triethylorthoformate | 8 ml | C(C)OC(OCC)OCC | C7H16O3
solvent | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-[2-(methylsulphenyl)-3-(methylsulphenylmethyl)-4-chlorophenyl]-2-ethoxymethylene-3-cyclopropylpropan-1,3-dione | 2.3 g | CSC1=C(C=CC(=C1CSC)Cl)C(C(C(=O)C1CC1)=COCC)=O | C18H21ClO3S2
